US09359371B2
(3) Preparation: ethyl (s)-4-((3-chloro-4-methoxybenzyl)amino)-2-(2-(hydroxymethyl)tetrahydropyrrole-1-yl)-5-pyrimidine carboxylate
In the solution of ethyl 4-((3-chloro-4-methoxybenzyl)amino)-2-methanesulfinyl-5-pyrimidine carboxylate in DCM was added triethylamine (4.24 g, 42 mmol). The mixture was cooled in an ice bath, then was added L-prolinol (2.2 g, 19.8 mmol) dropwise. The reaction mixture was stirred at ambient temperature for 3 h. The reaction was monitored by LC-MS. After the completion of the reaction, the reaction mixture was washed with water, dilute hydrochloric acid, sodium bicarbonate aqueous solution and brine, each once. The organic phase was dried over sodium sulfate and concentrated until the solvent was removed. The product was used in subsequent procedures without further purification.

reactant | ethyl 4-((3-chloro-4-methoxybenzyl)amino)-2-methanesulfinyl-5-pyrimidine carboxylate | ClC=1C=C(CNC2=NC(=NC=C2C(=O)OCC)S(=O)C)C=CC1OC | C16H18ClN3O4S
reactant | triethylamine | 42 mmol, 4.24 g | C(C)N(CC)CC | C6H15N
reactant | L-prolinol | 19.8 mmol, 2.2 g | N1[C@H](CO)CCC1 | C5H11NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | ethyl (s)-4-((3-chloro-4-methoxybenzyl)amino)-2-(2-(hydroxymethyl)tetrahydropyrrole-1-yl)-5-pyrimidine carboxylate | ClC=1C=C(CNC2=NC(=NC=C2C(=O)OCC)N2[C@@H](CCC2)CO)C=CC1OC | C20H25ClN4O4
